US07230031B2
2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)benzoic acid
2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde (1.00 g) was dissolved in tert-butanol (24 mL). To the mixture was added 2-methyl-2-butene (6 mL) at room temperature with stirring. After adding sodium chlorite (553 mg) and an aqueous solution of sodium hydrogen phosphate (250 g/L, 12 mL), the mixture was stirred at room temperature for 2 days, and then extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (1.14 g).

reactant | 2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde | 1.00 g | COC1=C(C=O)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C18H17NO5
reactant | 2-methyl-2-butene | 6 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 553 mg | Cl(=O)[O-].[Na+]
reactant | sodium hydrogen phosphate | 12 mL | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | tert-butanol | 24 mL | C(C)(C)(C)O | C4H10O
product | 2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)benzoic acid | 1.14 g | COC1=C(C(=O)O)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C18H17NO6
